Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization

 
History of Present Illness:
___ HTN, DM, HL, CAD and b/l hearing loss pw chest pain and 
abnormal stress test. Patient reports exertional, substernal 
chest pain for the last 3 days. Relieved with rest. Denies 
radiation. Saw neurologist today for evaluation of memory loss, 
but when he described chest pain was referred for outpatient 
stress test. The stress test was abnormal and he was referred 
for ___. Patient reports ongoing ___ substernal chest pain 
without SOB on arrival to 
the ED.  

Patient takes Plavix for remote history of CAD. Denies ASA use.  

Chest pain nonreproducible in the ED.  

In the ED initial vitals were: 97.7 56 138/70 16 96% RA  
- Labs were significant for WBC 3.7 Hct 40.6 Plt 141, Cr 0.8, 
INR 0.9, Troponin <0.01  
- Patient was given Nitroglycerin SL, Aspirin 325, and started 
on a heparin gtt. His pain resolved after the SL nitro and 
aspirin  
Vitals prior to transfer were: 97.6 52 ___ 97% RA  
On the floor, the patient is sleeping comfortably. He denies 
chest pain, dyspnea, fevers, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  

 
Past Medical History:
HYPERTENSION  
SEASONAL ALLERGIC RHINITIS  
HARD OF HEARING  
PROSTATE INTRAEPITHELIAL NEOPLASIA  
HYPERLIPIDEMIA  
GASTROESOPHAGEAL REFLUX  
CORONARY ARTERY DISEASE  
ERECTILE DYSFUNCTION  
GOUT  
AZOTEMIA  
ADENOMA  
VENTRICULAR ECTOPIC ACTIVITY  
 
Social History:
___
Family History:
Father: died in his ___ from iatrogenic injury, had some degree  

of loss of right hand function several years prior to his death, 
 
Mother: no medical issues  
Brother: died at ___ from cancer, not sure which type  
Sister: is ___, has memory problems,  
Son: healthy  
 
Physical ___:
PHYSICAL EXAM ON ADMISSION:  
Vitals - 97.9 152/92 56 18 99% RA  
GENERAL: Lying comfortably, in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP and radial pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

PHYSICAL EXAM ON DISCHARGE:  
Vitals - 98.0, 111-138/74-84, 52-59, rr18, 99% on RA
GENERAL: Sleeping peacefull in bed, in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP and radial pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
LABS ON ADMISSION:

___ 05:45PM BLOOD WBC-3.7* RBC-4.09* Hgb-14.0 Hct-40.6 
MCV-100* MCH-34.3* MCHC-34.5 RDW-12.8 Plt ___
___ 05:45PM BLOOD Neuts-61.6 ___ Monos-8.1 Eos-4.8* 
Baso-0.5
___ 05:45PM BLOOD ___ PTT-29.9 ___
___ 05:45PM BLOOD Glucose-86 UreaN-26* Creat-0.8 Na-138 
K-4.4 Cl-94* HCO3-26 AnGap-22*
___ 02:00PM BLOOD ALT-30 AST-24 AlkPhos-44 Amylase-83 
TotBili-0.7
___ 07:50AM BLOOD CK-MB-5 cTropnT-<0.01
___ 05:45PM BLOOD cTropnT-<0.01
___ 07:50AM BLOOD CK-MB-5 cTropnT-<0.01
___ 07:50AM BLOOD Calcium-9.3 Phos-3.1 Mg-2.0 Cholest-159
___ 07:50AM BLOOD %HbA1c-7.2* eAG-160*
___ 07:50AM BLOOD Triglyc-386* HDL-33 CHOL/HD-4.8 
LDLcalc-49

LABS ON DISCHARGE:

___ 07:35AM BLOOD WBC-4.0 RBC-4.72 Hgb-15.7 Hct-47.6 
MCV-101* MCH-33.4* MCHC-33.0 RDW-13.3 Plt ___
___ 07:35AM BLOOD Plt ___
___ 07:35AM BLOOD Glucose-128* UreaN-24* Creat-1.3* Na-140 
K-4.9 Cl-103 HCO3-30 AnGap-12
___ 09:15AM BLOOD ALT-36 AST-38 AlkPhos-54 TotBili-0.8
___ 07:35AM BLOOD Calcium-9.6 Phos-3.2 Mg-2.1

STUDIES:
___ (outpatient) STRESS TEST
INTERPRETATION: This ___ year old man with a history of HTN, gout 
and 
HL was referred to the lab for evalution of chest discomfort. 
The 
patient exercised for 11 minutes of ___ protocol and stopped 
for 
fatigue. The estimated peak MET capacity was 11.9 which 
represents an 
excellent functional capacity for his age. Near peak exercise, 
the 
patient noted a non-progressive right sided chest discomfort. 
This 
resolved with rest by minute 2 of recovery. At peak exercise, 
there was 
1-1.5 mm horizontal ST segment depression in the inferolateral 
leads. 
This became downsloping in recovery and resovled with rest by 
minute 7. 
the rhythm was sinus with rare isolated apbs during exercise and 

frequent isolated vpbs in recovery. Resting HTN with an 
appropriate 
increase in systolic BP with exercise and slight blunting or HR 
on beta 
blocker therapy. 
IMPRESSION: Ischemic EKG changes with atypical chest discomfort. 

Nuclear report sent separately. 

___ EKG
Rate PR QRS QT/QTc P QRS T 
56 0 92 420/413 0 -3 55 
Sinus bradycardia. Baseline artifact. Initial deflections in 
leads III and aVF likely preclude prior inferior wall myocardial 
infarction, as reported on ___. No diagnostic interim 
change. Ventricular ectopy is absent. 

___ CARDIAC PERFUSION
IMPRESSION: 
1. Reversible, large, moderate severity perfusion defect 
involving the LCx territory. 
2. Normal left ventricular cavity size and systolic function. 
Compared with the study of ___, the defect is new. 

___ CXR
FINDINGS:   
The lungs remain clear. The cardiomediastinal silhouette is 
within normal 
limits. Atherosclerotic calcifications are noted at the aortic 
arch. No acute osseous abnormalities identified. 
IMPRESSION:  
No acute cardiopulmonary process. 

___ CARDIAC CATH
Coronary angiography:  right dominant
LMCA:  20% minor irregularities
LAD:   The LAD was heavily calcified with diffuse disease.  
There was a large diagonal branch with a 80-90% stenosis at its
origin.   Three was a large second diagonal branch with an 
60-70%
stenosis at its origin.   There was an 80% stenosis in the mid
LAD and diffusely 80-90% stenosis in the mid LAD.  The distal 
LAD
had minor lumen irregularities. 
LCX:  The LCX was a small vessel with an occlusion of the OMB.
RCA: The RCA was a large dominant vessel.  It had a 50% stenosis
in the distal RCA.  There was diffuse 60-70% disease throughout
the PLSA.  There was a 90% stenosis in RPL2 . There were right 
to
left collaterals to the OMB.
ASSESSMENT
1. Severe three vessel coronary artery disease

___ CARDIAC ECHO
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and global systolic function 
(LVEF>55%). Right ventricular chamber size and free wall motion 
are normal. The ascending aorta is mildly dilated. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Mild (1+) mitral regurgitation is 
seen. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion. 
IMPRESSION: Preserved biventricular systolic function. Mildly 
dilated ascending aorta. Mild mitral regurgitation. Normal 
pulmonary artery systolic pressure.
Compared with the prior study (images unavailable for review) of 
___, the findings are similar.  

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with HTN, DM,HL, CAD and b/l hearing 
loss presenting with new onset exertional angina abnormal stress 
test who was found to have three vessel CAD.

# Unstable Angina/CAD: Mr. ___ had been experiencing progressive 
exertional, substernal chest pain and was sent for outpatient 
studies by his neurologist. He had an abnormal stress test and 
perfusion study showing a large reversible moderate severity 
perfusion defect involving the Lcx territory, so he was sent to 
the ER, where troponin was <0.01 and his EKG showed no ST 
segment elevations. He was admitted and underwent a cardiac 
catheterization that showed three vessel CAD.  He was then seen 
by cardiac surgery for evaluation of cardiac ___ bypass graft 
surgery.  This was scheduled for ___, after a 5 day 
plavix wash-out period.  He was discharged with chlorhexidine 
washes for ___ night and ___ morning, as well as 
mupirocen nasal cream BID, and the time and place to present for 
admission on ___ morning.  He was also set up for ___ as he 
expressed concern about being able to complete his pre-op 
regimen and take his medication as prescribed.  His Lisinopril 
was held from discharge until after surgery as he had a mild 
increase in creatinine.  His plavix was held.  His home atenoll 
was converted to metoprolol and aspirin was started; these 
medications were continued until surgery. His atorvastatin dose 
was increased to 80mg daily, which was also continued.

# Travel plasn:  A medical note was provided as he was no longer 
able to travel as anticipated. 

============================================
TRANSITIONAL ISSUES
============================================
Mr ___ is a ___ year old man with HTN, DM,HLD and b/l hearing loss 
presenting with new onset exertional angina who was found to 
have 3 vessel CAD.
- CAD: Seen by Cardiac surgery and planned for surgery on 
___. Will need chlorhexidine wash ___ 
morning before coming in. Will need to use Mupirocin cream ___ 
tube in each nostril) twice a day between now and then.
- Atenolol switched to metoprolol.
- HbA1c 7.1%

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. celecoxib 200 mg oral PRN gout attack 
5. Clopidogrel 75 mg PO DAILY 
6. Lisinopril 20 mg PO DAILY 
7. Colchicine 0.6 mg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Nitroglycerin SL 0.4 mg SL PRN chest pain 
RX *nitroglycerin [Nitrostat] 0.4 mg 1 tablet(s) sublingually 
every 5 minutes x 3 tablets Disp #*12 Tablet Refills:*0
4. Mupirocin Nasal Ointment 2% 1 Appl NU BID Duration: 5 Days 
RX *mupirocin calcium [Bactroban Nasal] 2 % 0.5 (One half) tube 
in each nostril twice a day Disp #*6 Tube Refills:*0
5. Allopurinol ___ mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
This replaces atenolol 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
7. Colchicine 0.6 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease

 
Discharge Condition:
Mental Status: Confused - mildly, occasionally.  Oriented x3.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ due to 
chest pain.  A cardiac catheterization revealed that you have 
coronary artery disease in the main three vessels in your heart. 
 The recommended treatment is a coronary artery bypass graft 
(CABG) surgery.  You were seen by the Cardiac Surgeons who plan 
to perform the surgery on ___.

Do not take plavix, NSAIDS (including celecoxib, ibuprofen), or 
lisinopril until instructed to by your doctor after surgery. 
Atenolol was also switched to metoprolol.  Continue to take your 
other medications, including metoprolol and aspirin, as 
prescribed.

Please return to the hospital on ___ 6:00 AM as 
instructed by the Cardiac Surgery team, and follow their 
direction about soap scrubs and cream application in preparation 
for surgery.  Nurses ___ visit your home to check on you 
tomorrow. 

It was a pleasure taking care of you.
Sincerely,
Your ___ Team

 
Followup Instructions:
___